US05571843
2-semicarbazono-indan-1,3-dione
ninhydrin, semicarbazide hydrochloride.

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | 2-semicarbazono-indan-1,3-dione | N(NC(=O)N)=C1C(C2=CC=CC=C2C1=O)=O | C10H7N3O3
